US04179563
A solution of 93 g of 3-(p-chlorophenoxy)pyridine [Agr. Biol. Chem. 34, 68 (1970)] in 100 ml of glacial acetic acid is treated with 95 g of 40% peracetic acid in acetic acid in four equal portions. The mixture is heated at 35°-40° C. for 16 hours and than refluxed 1 hour. The mixture is cooled to 70° C., 100 ml of isopropanol is added and the reaction heated at 95° C. for 2 hours. The mixture is concentrated in vacuo and dissolved in 700 ml of dichloromethane. The solution is washed with 25 ml of 25% cold sodium hydroxide solution, dried over anhydrous MgSO4, concentrated at reduced pressure to yield crystalline 3-(p-chlorophenoxy)pyridine N-oxide, recrystallized from toluene; mp 138°-140° C.

reactant | 3-(p-chlorophenoxy)pyridine | 93 g | ClC1=CC=C(OC=2C=NC=CC2)C=C1 | C11H8ClNO
reactant | peracetic acid | 95 g | C(C)(=O)OO | C2H4O3
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-(p-chlorophenoxy)pyridine N-oxide | ClC1=CC=C(OC=2C=[N+](C=CC2)[O-])C=C1 | C11H8ClNO2
